### PR TITLE
Add operators of the form `Prop -> Prop`

### PR DESCRIPTION
**Pull request by fredrik-bakke**
Tries adding operators on propositions that give propositions. The suggested scheme is to use unicode symbols when taking values in types, and spelled-out words when taking values in types. The base motivation is that if we want to have infix operators that take proposition as inputs, then they should also spit out propositions.

if you like this (and that's a big if), then I would also suggest renaming `¬` to something else, so we can use `¬` for the operator on propositions. The exists-operator is also an issue.

This PR will need some iterations before it can be merged, so feedback along the way is appreciated.

### CODE REVIEW

**Comment by EgbertRijke** [comment]
I think in most cases where we use infix notation I would still like to keep both a regular name, and not dispose of it. The regular name for the operation then sets the naming scheme for things involving that operator, because generally we don't use unicode symbols in the middle of a name.

Also, the sentence from your PR description

> The suggested scheme is to use unicode symbols when taking values in types, and spelled-out words when taking values in types.

should probably mention propositions in one of the two cases.

**Comment by fredrik-bakke** [comment]
It seems to me the questions that remain open are
- What do we do with `∃`?

and

- should we have another operator for negation on propositions?

Other than this, I do like the prospect of having a "DSL" for propositions.

**Comment by fredrik-bakke** [comment]
I am tempted to give up on the current draft again, as I don't believe the notation `∨₍₋₁₎` etc. does very much to help readability in the end. It just adds yet another way to say the same thing. I think that is too bad, but perhaps the best way to work with propositions is to take `_∨_` to mean the propositional disjunction type of _types_ and similarly `_∧_` to mean the underlying type of the propositional conjunction on _types_ (this will require a slight refactoring of the current file). That does leave `_⇒_` and `_⇔_` in a slightly awkward position though. Should they also be the propositional truncation of maps and logical equivalences respectively?

**Comment by fredrik-bakke** [comment]
A fundamental observation here is that type signatures in the end tend to want to be about types, so operators that take types as input/output are inherently more usable, and mixing in syntax about propositions doesn't flow very well.
If we want to have and use a special syntax in the subuniverse of propositions that actually enhances readability, we need a more principled approach to its use. I.e.: the syntax is there to form a proposition, so one should never have to wrap a logical expression in a `type-Prop`. That should instead warrant a new definition!

**Comment by fredrik-bakke** [comment]
To give an example, where we currently have the definition 


```agda
  is-cotransitive : UU (l1 ⊔ l2)
  is-cotransitive =
    (a b c : A) → type-Prop (R a b ⇒₍₋₁₎ (R a c ∨₍₋₁₎ R b c))
```

If we are to use the propositional syntax _at all_, we should instead define `is-contransitive` by writing two definitions:

```agda
  is-cotransitive-Prop : Prop (l1 ⊔ l2)
  is-cotransitive-Prop =
    Π₍₋₁₎ A (λ a → Π₍₋₁₎ A (λ b → Π₍₋₁₎ A (λ c → R a b ⇒₍₋₁₎ (R a c ∨₍₋₁₎ R b c))))

  is-cotransitive : UU (l1 ⊔ l2)
  is-cotransitive = type-Prop is-cotransitive-Prop
```

**Comment by fredrik-bakke** [comment]
By the way, I added a parenthesis around the $-1$-index in hopes that it somehow made the symbols less ambiguous, but I'm not sure it achieved that. I'm open to input.

**Comment by fredrik-bakke** [comment]
I'm happy to say that after some helpful discussion with @VojtechStep  this morning, I think I have devised a general notational scheme that will also help organize the current concepts from propositional logic in a better way. It turns out that there is a way to make everything consistent, and it involves taking the propositional operators `∨`, `∧`, `⇒`, and `⇔` to be operations on types that always take the underlying type of a propositional truncation. Then we can also, for instance, disambiguate `×₋₁` from `∧₋₁` and `→₋₁` from `⇒₋₁` (which would all be binary endooperations on props).
 I will mark this PR as ready for review when I have implemented this scheme.

**Comment by fredrik-bakke** [comment]
Alright, I'm finally opening this PR for review. I expect there may be some ends that I forgot to tie, so don't hesitate to call me out on it. Overall I'm very happy with how this PR turned out.

**Comment by fredrik-bakke** [comment]
I've finished my self-review now. I believe there is still room for improvement in how we _apply_ these operators, but at least now the groundwork has been laid.

**Comment by fredrik-bakke** [comment]
How do you feel about the following for `type-Prop`: `⸤_⸥₍₋₁₎` with or without parentheses, or even `⌊_⌋₍₋₁₎`?

**Comment by EgbertRijke** [comment]
> How do you feel about the following for `type-Prop`: `⸤_⸥₍₋₁₎` with or without parentheses, or even `⌊_⌋₍₋₁₎`?
> 
> Edit: I guess it could be confused with the unit of the propositional truncation, which I guess should then be `∣_∣₍₋₁₎` (as opposed to `|_|₍₋₁₎`?)

I like neither option as much as eta :P

**Comment by EgbertRijke** [comment]
> > How do you feel about the following for `type-Prop`: `⸤_⸥₍₋₁₎` with or without parentheses, or even `⌊_⌋₍₋₁₎`?
> > Edit: I guess it could be confused with the unit of the propositional truncation, which I guess should then be `∣_∣₍₋₁₎` (as opposed to `|_|₍₋₁₎`?)
> 
> I like neither option as much as eta :P

Ah, I thought it was about the modal unit. I think the modal unit should definitely just be called `unit-...` or `eta`, but `unit` is more descriptive. I've never been very  fond of the single `| _ |` and I don't use it in my book either.

The thought of making up a symbol for `type-Prop` is honestly horrifying to me. Especially the floor symbol. That symbol is well-established and refers to the floor function. This is definitely a case where I would say: Type theorists are way to creative with symbols and it is not to the benefit of our subject. In my book I have been very conservative with new symbols, and I think that made it much more accessible. We should be very careful with introducing new symbols or introducing new uses of well-established old symbols.

**Comment by fredrik-bakke** [comment]
Okay, yeah. I think that also it is beneficial to exercise some restraint with how many symbols, especially parenthesis-like ones, are introduced because too many may be overwhelming when trying to parse Agda expressions.

File: src/foundation-core/propositions.lagda.md [hunk 1]
```diff
@@ -192,15 +198,29 @@ abstract
...
+  {l1 l2 : Level} (P : Prop l1) (Q : type-Prop P → Prop l2) → Prop (l1 ⊔ l2)
+Σ₍₋₁₎ = Σ-Prop
+```
+
+This is part of a general scheme where `Σ₍ₙ₎` takes an indexing
+$n$-[type](foundation-core.truncated-types.md) and a family of $n$-types over it
+as inputs, and spits out the $n$-type of dependent pairs. Note in particular
+that `Σ₍ₙ₎` should be read differently from the
+[existential quantification](foundation.existential-quantification.md) `∃₍ₙ₎`,
+whose underlying type is a proposition irrespective of $n$.
```
Comment (EgbertRijke) [inline src/foundation-core/propositions.lagda.md:222]:
```suggestion
which is a proposition irrespective of $n$.
```

**Comment by fredrik-bakke** [comment]
I'm not sure how good `unit₍₋₁₎` will look, but, if at all, we can try it out in a different pull request. Currently I wonder if what my mind is annoyed by is really the `trunc` abbreviation. I'll post a pull request elaborating it to `truncation` after this one is merged.

File: src/foundation-core/propositions.lagda.md (hunk 1 above)
Comment (fredrik-bakke) [reply src/foundation-core/propositions.lagda.md:222]: The words were chosen specifically because I want to make `∃₍ₙ₎` (and the other propositional operators) take values in $n$-types, although the underlying type will always be a $-1$-type. I agree that's not at all clear from the explanation however 😅

Comment (EgbertRijke) [reply src/foundation-core/propositions.lagda.md:222]: Btw the two suggestions mean the same thing. It was really just a very minor suggestion.

**Comment by EgbertRijke** [comment]
> Okay, yeah. I think that also it is beneficial to exercise some restraint with how many symbols, especially parenthesis-like ones, are introduced because too many may be overwhelming when trying to parse Agda expressions.

Great! Yes I was just thinking that if some relatively new user knows a little bit of our naming scheme, and then sees a part of the library with lots of floor functions, they can't really guess easily what it means. On the other hand, if they know our naming scheme a little bit, then `type-Prop` can be read as the type obtained from a proposition, and they can easily infer what it means.

As a side note: The floor function is a right adjoint.

File: src/foundation-core/propositions.lagda.md (hunk 1 above)
Comment (fredrik-bakke) [reply src/foundation-core/propositions.lagda.md:222]: On second thought, we may want `∃₍ₙ₎` to mean the $n$-truncated existence operator. I.e.
```agda
∃₍ₙ₎ :
  {l1 l2 : Level} (A : UU l1) (B : A → Truncated-Type l2 n) →
  Truncated-Type (l1 ⊔ l2) n
∃₍ₙ₎ A B = trunc n (Σ A (type-Truncated-Type ∘ B))
```
so I think it is better not to mention it at all in this PR

**Comment by EgbertRijke** [comment]
> > What is wrong with `unit-trunc-Prop`?
> 
> Not anything really. Aside from maybe `truncation` is better

I would be happy with `truncation`, but isn't that a super low priority change? You got a lot of open pull requests that you're not working on:P

File: src/foundation-core/propositions.lagda.md (hunk 1 above)
Comment (fredrik-bakke) [reply src/foundation-core/propositions.lagda.md:222]: > Why do you prefer to say "The underlying type of `P` is a proposition" rather than "`P` is a proposition"?

Because the former distinguishes what the operator returns as output and the properties of that thing, while the second seems to conflate them.

**Comment by fredrik-bakke** [comment]
> I would be happy with `truncation`, but isn't that a super low priority change? You got a lot of open pull requests that you're not working on:P

What do you mean? I am working on them

**Comment by fredrik-bakke** [comment]
The only one I am not working on currently is #1025, and my plan is to pick it up again after #1005 is merged.

**Comment by fredrik-bakke** [comment]
I think now is a good time to change `trunc` to `truncation`, because users of our logic infrastructure will have to update their code with respect to this PR anyway, and it is also a very easy change to implement.

File: src/foundation/conjunction-propositions.lagda.md [hunk 2]
```diff
@@ -0,0 +1,235 @@
...
+
+## Definition
+
+```agda
+module _
+  {l1 l2 : Level} (P : Prop l1) (Q : Prop l2)
+  where
+
+  conjunction-Prop : Prop (l1 ⊔ l2)
+  conjunction-Prop = conjunction-prop (type-Prop P) (type-Prop Q)
```
Comment (EgbertRijke) [inline src/foundation/conjunction-propositions.lagda.md:46]: It seems really strange to me that `conjunction-prop` is defined somewhere else. It's natural place would be here.

Comment (EgbertRijke) [reply src/foundation/conjunction-propositions.lagda.md:46]: It also looks strange to me that we create a distinction between `conjunction-Prop` and `conjunction-prop`. That is highly likely to cause confusion.

File: src/foundation/propositions.lagda.md [hunk 3]
```diff
@@ -70,8 +70,19 @@ equiv-is-prop-equiv : {l1 l2 : Level} {A : UU l1} {B : UU l2} →
...
+## Operations on propositions
+
+{{#include tables/operations-propositions.md}}
+
+## Table of files about propositional logic
+
+The following table gives an overview of basic constructions in propositional
+logic and related considerations.
+
+{{#include tables/propositional-logic.md}}
```
Comment (EgbertRijke) [inline src/foundation/propositions.lagda.md:88]:
```suggestion
## See also

### Operations on propositions

{{#include tables/operations-propositions.md}}

### Table of files about propositional logic

The following table gives an overview of basic constructions in propositional
logic and related considerations.

{{#include tables/propositional-logic.md}}
```

File: src/foundation/implication.lagda.md [hunk 4]
```diff
@@ -0,0 +1,103 @@
...
+
+## Idea
+
+A type `A` {{#concept "implies" Disambiguation="types" Agda=implication}} the
+type `B` if the type of maps from `A` to `B` is
+[inhabited](foundation.inhabited-types.md).
+
+```text
+  A ⇒ B := ║(A → B)║₋₁
+```
```
Comment (EgbertRijke) [inline src/foundation/implication.lagda.md:27]: I am again not sure whether it is a good idea to introduce implication in this way. Implication is a well-established mathematical word, which is generally restricted to propositions. Giving a new meaning to the word implication is highly likely to cause confusion. I think it is important to recall that in the agda-unimath project we are aiming to be a useful source of information for those among a general mathematical audience who are interested in univalent mathematics and formalization of mathematics.

- For the general mathematical audience, implication is restricted to propositions
- For many type theorists, the Curry-Howard interpretation of logic into type theory an implication from A to B is a function from A to B

Here we are introducing a third interpretation which has never been seen before. I don't think the motivation for it (that it fits in a naming scheme) is strong enough grounds for making this move. So I advise against it.

A better name for this concept could perhaps be "mere function".

**Review by EgbertRijke — CHANGES_REQUESTED** [review]
I have partially reviewed this pull request, but I have come to the conclusion that this PR is perhaps not a sure merge. There are significant problems with this pull request, especially around the introduction of new meanings to well-established mathematical terminology. We should be very careful when doing such a thing, and "it fits into a new naming scheme" is not sufficient motivation.

I am submitting my partial review now, and when the comments are addressed we I can review it again.

File: src/foundation-core/propositions.lagda.md [hunk 5]
```diff
@@ -234,15 +280,29 @@ module _
...
+Π₍₋₁₎ : {l1 l2 : Level} (A : UU l1) (P : A → Prop l2) → Prop (l1 ⊔ l2)
+Π₍₋₁₎ = Π-Prop
+```
+
+This is part of a general scheme where `Π₍ₙ₎` takes an indexing type and a
+family of $n$-[types](foundation-core.truncated-types.md) over it as inputs, and
+spits out the $n$-type of dependent functions into the family. Note in
+particular that `Π₍ₙ₎` should be read differently from the
+[universal quantification](foundation.universal-quantification.md) `∀₍ₙ₎`, whose
+underlying type is a proposition irrespective of $n$.
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation-core/propositions.lagda.md]: `∀₍ₙ₎` takes a family of $n$-types and spits out the $n$-type that is the proposition of universally quantifying over the underlying type family.

File: src/foundation-core/propositions.lagda.md [hunk 6]
```diff
@@ -210,12 +230,38 @@ abstract
...
+  {l1 l2 : Level} (P : Prop l1) (Q : Prop l2) → Prop (l1 ⊔ l2)
+_×₍₋₁₎_ = product-Prop
 ```
 
+This is part of a general scheme where `×₍ₙ₎` takes an indexing
+$n$-[type](foundation-core.truncated-types.md) and a family of $n$-types over it
+as inputs, and spits out the $n$-type of dependent pairs. Note in particular
+that `×₍ₙ₎` should be read differently from the
+[conjunction](foundation.conjunction.md) `∧₍ₙ₎`, whose underlying type is a
+proposition irrespective of $n$.
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation-core/propositions.lagda.md]: `ₙ` isn't an Agda variable.

File: src/foundation/axiom-of-choice.lagda.md [hunk 7]
```diff
@@ -44,7 +45,7 @@ AC-Set : (l1 l2 : Level) → UU (lsuc l1 ⊔ lsuc l2)
 AC-Set l1 l2 =
   (A : Set l1) (B : type-Set A → Set l2) →
   ((x : type-Set A) → type-trunc-Prop (type-Set (B x))) →
-  type-trunc-Prop ((x : type-Set A) → type-Set (B x))
+  ((x : type-Set A) → type-Set (B x))
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation/axiom-of-choice.lagda.md:48]: Thanks for catching that, that was indeed unintentional

File: src/foundation/booleans.lagda.md [hunk 8]
```diff
@@ -261,8 +262,12 @@ pr2 equiv-neg-bool = is-equiv-neg-bool
 
 ```agda
 abstract
-  not-equiv-const :
+  not-section-const-bool : (b : bool) → ¬ (section (const bool bool b))
+  not-section-const-bool true (g , G) = neq-true-false-bool (G false)
+  not-section-const-bool false (g , G) = neq-false-true-bool (G true)
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation/booleans.lagda.md:267]: Nice!

File: src/foundation/biimplication.lagda.md [hunk 9]
```diff
@@ -0,0 +1,222 @@
...
+```
+
+</details>
+
+## Idea
+
+Two types `A` and `B` are
+{{#concept "biimplied" Disambiguation="types" Agda=biimplication}} if the type
+of [logical equivalences](foundation.logical-equivalences.md) between `A` and
+`B` is [inhabited](foundation.inhabited-types.md).
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation/biimplication.lagda.md:30]: Thanks for suggesting an alternative

File: src/foundation/implication.lagda.md (hunk 4 above)
Comment (fredrik-bakke) [reply src/foundation/implication.lagda.md:27]: How about "mere logical consequence"?

File: src/foundation/coinhabited-types.lagda.md [hunk 10]
```diff
@@ -0,0 +1,104 @@
...
+### Coinhabitedness is a symmetric relation
+
+```agda
+module _
+  {l1 l2 : Level} {A : UU l1} {B : UU l2}
+  where
+
+  is-coinhabited-inv : is-coinhabited A B → is-coinhabited B A
+  is-coinhabited-inv = inv-iff
+```
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation/coinhabited-types.lagda.md]: Btw, when you make suggestions that span over code guards (` ``` `), please make sure to add additional backticks to the suggestion guards. Otherwise, your suggestion gets mangled like it does here, and the final code guard is left out of the suggestion.

File: src/foundation/conjunction-propositions.lagda.md (hunk 2 above)
Comment (fredrik-bakke) [reply src/foundation/conjunction-propositions.lagda.md]: I went with `prop-conjunction` and friends.

File: src/foundation/implication.lagda.md (hunk 4 above)
Comment (fredrik-bakke) [reply src/foundation/implication.lagda.md]: Thanks for your patience in laying out your perspective by the way. I definitely agree that it is important to choose the right words, and it is not always so clear to me what is the "generally accepted meaning" of a word.

File: src/foundation-core/propositions.lagda.md (hunk 1 above)
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation-core/propositions.lagda.md]: I don't see how using an $n$ rather than a $k$ should have any consequence on what is written here.

**Comment by fredrik-bakke** [comment]
Lol, gotta love it when my own autoformatting script corrects my formatting based on rules I didn't even realize we have 😂

**Comment by fredrik-bakke** [comment]
Alright, I've attempted to address all of your comments now. I want to reiterate that I am open to changing definitions and removing some of the notation that is introduced in this PR. The main goal was not to give everything an infix operator or create a slick naming scheme, but rather to make what we already had consistent.

**Comment by fredrik-bakke** [comment]
Are you happy with "disjunction" and "conjunction" of types by the way, or do you think "mere disjunction" and "mere conjunction" will be understood by a wider audience?

**Comment by fredrik-bakke** [comment]
I would for instance be happy with removing `_⇒_`, `_⇒₍₋₁₎_`, `_⇔_`, and `_⇔₍₋₁₎_`. After all, there are multiple candidates for what they should mean.

File: src/foundation/negation.lagda.md [hunk 11]
```diff
@@ -34,14 +34,24 @@ type `A` is the type `A → empty`.
...
 
 neg-Prop : {l1 : Level} → Prop l1 → Prop l1
-neg-Prop P = neg-Prop' (type-Prop P)
+neg-Prop P = prop-neg (type-Prop P)
+
+type-neg-Prop : {l1 : Level} → Prop l1 → UU l1
+type-neg-Prop P = type-Prop (neg-Prop P)
+
+¬₍₋₁₎ : {l1 : Level} → Prop l1 → Prop l1
+¬₍₋₁₎ = neg-Prop
```
Comment (EgbertRijke) [inline src/foundation/negation.lagda.md:48]: I you make this a mixfix operator then you can assign it the precedence level of a parametric unary operator:

```suggestion
infix 25 ¬₍₋₁₎_

¬₍₋₁₎_ : {l1 : Level} → Prop l1 → Prop l1
¬₍₋₁₎_ = neg-Prop
```

File: src/foundation/negation.lagda.md [hunk 12]
```diff
@@ -34,14 +34,24 @@ type `A` is the type `A → empty`.
 is-prop-neg : {l : Level} {A : UU l} → is-prop (¬ A)
 is-prop-neg {A = A} = is-prop-function-type is-prop-empty
 
-neg-Prop' : {l1 : Level} → UU l1 → Prop l1
-pr1 (neg-Prop' A) = ¬ A
-pr2 (neg-Prop' A) = is-prop-neg
+prop-neg : {l1 : Level} → UU l1 → Prop l1
+pr1 (prop-neg A) = ¬ A
+pr2 (prop-neg A) = is-prop-neg
```
[the remark this answers is not in the document]
Comment (EgbertRijke) [reply src/foundation/negation.lagda.md:39]: Note that an advantage of the naming approach with `'` for variants is that if you're unsure which variant you need, then you can quickly test it by adding or removing a prime at the end of the name.

In the new approach, you would have to retype the name entirely, making it harder to toggle between closely related variants.

Note that this is something that I actually do in the case of `is-contr-equiv` and `is-contr-equiv'`. There I am sometimes in the middle of a proof, realizing that I want to invert the direction, and it is easy to do that with `'`s.  I think I have also used this in the case of negation.

Given this use case, I am actually unsure whether the proposed renaming is an improvement, or at least we could factor it into our decision making.

File: src/foundation/universal-quantification.lagda.md [hunk 13]
```diff
@@ -0,0 +1,86 @@
...
+
+```text
+  ∀ (x : A) (B x)
+```
+
+is the [proposition](foundation-core.propositions.md) that there
+[merely exists](foundation.inhabited-types.md) a section `(x : A) → B x`.
+
+**Notation.** Because of syntactic limitations of the Agda language, we must use
+the notation `∀'` for the universal quantification.
```
Comment (EgbertRijke) [inline src/foundation/universal-quantification.lagda.md:32]: It is not true to say that we "must use" any one particular notation. Indeed, we could use _any_ unused string of symbols, or not use notation.

File: src/foundation/universal-quantification.lagda.md [hunk 14]
```diff
@@ -0,0 +1,86 @@
...
+
+Given a type `A` and a type family `B : A → 𝒰` over it, the
+{{#concept "universal quantification" Disambiguation="of types" Agda=∀'}}
+
+```text
+  ∀ (x : A) (B x)
+```
+
+is the [proposition](foundation-core.propositions.md) that there
+[merely exists](foundation.inhabited-types.md) a section `(x : A) → B x`.
```
Comment (EgbertRijke) [inline src/foundation/universal-quantification.lagda.md:29]: I think this is not a universal quantification by anyone's understanding of universal quantification. Note that universal quantification is satisfy the property

```text
  (P -> forall (a : A), Q a) <-> (forall (a : A), P -> Q a)
```

The forward direction `(P -> ||A -> Q||) -> ||P -> A -> Q||` seems problematic.

I think we have no justification for calling these types universal quantifications.

File: src/foundation/mere-logical-consequences.lagda.md [hunk 15]
```diff
@@ -0,0 +1,105 @@
...
+## Idea
+
+A type `B` is a
+{{#concept "mere logical consequence" Disambiguation="types" Agda=mere-consequence}}
+of the type `A` if the type of maps from `A` to `B` is
+[inhabited](foundation.inhabited-types.md).
+
+```text
+  A ⇒ B := ║(A → B)║₋₁
+```
```
Comment (EgbertRijke) [inline src/foundation/mere-logical-consequences.lagda.md:28]: I think I'm not so fond of this concept. What purpose does it serve to be able to say that the sphere is a mere logical consequence of the infinite real projective space? It looks extremely odd to me, and I don't know what this concept is for.

File: src/foundation/negation.lagda.md [hunk 16]
```diff
@@ -57,23 +67,30 @@ equiv-neg :
...
+  {l : Level} (A : UU l) → ¬ (A ↔ ¬ A)
 no-fixed-points-neg A (pair f g) =
   ( λ (h : ¬ A) → h (g h)) (λ (a : A) → f a a)
 ```
 
 ```agda
 abstract
   no-fixed-points-neg-Prop :
-    {l1 : Level} (P : Prop l1) → ¬ (P ⇔ neg-Prop P)
+    {l1 : Level} (P : Prop l1) → ¬ (type-Prop (P ↔₍₋₁₎ ¬₍₋₁₎ P))
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation/negation.lagda.md:87]: If typing ease is a real concern then there are fundamental things I've misunderstood about this library.

File: src/foundation/mere-logical-consequences.lagda.md (hunk 15 above)
Comment (fredrik-bakke) [reply src/foundation/mere-logical-consequences.lagda.md:28]: Are you just confused or is this a genuine critique of the concept?

**Comment by fredrik-bakke** [comment]
> I reviewed this PR a bit more, but I am really having trouble with it. If this were a paper, then it would be no question that this was a clear reject.
> 
> I find some of the proposed terminology unmotivated. I am afraid that having the proposed definition of universal quantification on our website would make us look like some crackpots who don't know what they are talking about. I am sorry for the negative comments.
> 
> This work clearly needs more thought.

I find this review hurtful and disheartening. It seems to me that you are misunderstanding the basic goal of this PR.

**Comment by fredrik-bakke** [comment]
> I find some of the proposed terminology unmotivated. I am afraid that having the proposed definition of universal quantification on our website would make us look like some crackpots who don't know what they are talking about. I am sorry for the negative comments.

Indeed we used to have a file about "the universal property of cartesian products of types" when it clearly has two canonical universal properties, and we used to display "the" wrong universal property of conjunctions. Yet somehow this is what will push us over the edge. Why not just ask me to formalize the universal property instead of insulting me like this?

**Comment by EgbertRijke** [comment]
I am sorry. I understand that it is hurtful to receive such a review, and I could have chosen kinder words. I did not mean to insult you, but I wanted to prevent that people would potentially insult us if we didn't get the universal property of quantification right. Perhaps I could have included more positive things in my review if I didn't focus on the parts that I find questionable.

One thing about your PR summary that I find unsufficiently motivated is the first column of operators in the second table. It seems that many of these are truncations of operators in the first column of the first table, but what problem does it solve to introduce them? From what I have seen in this PR, introducing them has caused more problems that it has solved.

**Comment by EgbertRijke** [comment]
> > I find some of the proposed terminology unmotivated. I am afraid that having the proposed definition of universal quantification on our website would make us look like some crackpots who don't know what they are talking about. I am sorry for the negative comments.
> 
> Indeed we used to have a file about "the universal property of cartesian products of types" when it clearly has two canonical universal properties, and we used to display "the" wrong universal property of conjunctions. Yet somehow this is what will push us over the edge. Why not just ask me to formalize the universal property instead of insulting me like this?

I looked at your work on conjunctions, but again I question whether it is done right.

In its original state, conjunction was a meet of propositions. You said that this is a "wrong" universal property of conjunction, which I disagree with. In any logic course you learn that conjunction is a meet. I consider the fact that you can't show it for the proposed definition of conjunction of types problematic.

The well-established interpretation for conjunction of types via the Curry-Howard interpretation is cartesian products.

**Comment by fredrik-bakke** [comment]
I take no issue with removing any number of operators from the table, as long as none of the ones in the right-most column are renamed unless they all are. It is unclear to me what issues you are referring to, but I get the sense that you haven't properly thought through why I'm proposing the exact scheme I am although I've tried to explain the constraints that make this difficult multiple times.

**Comment by fredrik-bakke** [comment]
Should we have a separate table for predicate logic?

**Comment by fredrik-bakke** [comment]
Okay, I've come to agree that we should not have a definition of "conjunction of types" nor "universal quantification over a type family", as these seem to be stretching the meaning of the original terms too much, and if one wants to consider them, one should apply the proper truncation oneself. I find it peculiar, however, that one does allow existential quantification over arbitrary type families, but as far as I can tell it is justified by the fact that it agrees with existential quantification over the propositional reflection of the type family. If this is sufficient justification for the existence of `∃`,  I suggest we also keep the definition of disjunction of types, although it seems to have less precedence in the literature (something I will have to look at a bit more). I can also point out that there is some precedence for considering the "exclusive disjunction of types", and this does _NOT_ agree with the exclusive disjunction of the propositional reflections of the summands (nor our current definition of exclusive disjunction of types).

**Comment by EgbertRijke** [comment]
Perhaps it is worth considering to call elements of propositional truncations of Sigma, Pi, ->, x, +
- mere dependent pairs
- mere dependent functions
- mere functions
- mere pairs
- mere cases(?)
and keep the logical operators with their usual type signatures:
- existential quantification is of a family of propositions over a type, and is propositionally truncated
- universal quantification is of a family of propositions over a type
- the binary, unary, and nullary operators are entirely on propositions.

I think the mere things above are sensible as concepts, and probably don't need mixfix notation. This suggestion also allows us to keep your formalized work.

I feel strange about calling `||A+B||` the disjunction of `A` and `B`. Currently we treat disjunction of propositions only, and this is how it is commonly done (apart from other logical settings, such as booleans or perhaps other Heyting algebras). We currently don't give a name to `||A+B||` when `A` and `B` are arbitrary types. If we really want to give it a name, my current suggestion is `mere-case A B`.

**Comment by fredrik-bakke** [comment]
Is your vision that all of propositional logic will prefer logical equivalences over equivalences as their standard notion of equivalence?

**Comment by EgbertRijke** [comment]
I think so, yes. Propositional extensionality refers to logical equivalence of propositions and we have some infrastructure for logical equivalences, such as logical equivalence reasoning.

This approach has also been tested in practice: 
- I have used logical equivalences in the definition of Galois connections, and that worked fine.
- The notions of subtypes having the same elements and relations relating the same elements are formulated with logical equivalence.

**Comment by EgbertRijke** [comment]
Thanks for your good work Fredrik!

**Comment by fredrik-bakke** [comment]
One minor point is that it feels a bit odd not to phrase universal properties in terms of "having a converse map" to some map. i.e.

```agda
your-favorite-propositional-universal-property : UUω
your-favorite-propositional-universal-property =
  {l : Level} (R : Prop l) -> has-converse (ev-your-favorite-Prop R)
```
rather than


```agda
your-favorite-propositional-universal-property : UUω
your-favorite-propositional-universal-property =
  {l : Level} (R : Prop l) -> some-logical-equivalence
```
but I guess that is actually a benefit of this approach, as you can define universal properties more generally.

**Comment by EgbertRijke** [comment]
> One minor point is that it feels a bit odd not to phrase universal properties in terms of "having a converse map" to some map. i.e.
> 
> ```agda
> your-favorite-propositional-universal-property : UUω
> your-favorite-propositional-universal-property =
>   {l : Level} (R : Prop l) -> has-converse (ev-your-favorite-Prop R)
> ```
> 
> rather than
> 
> ```agda
> your-favorite-propositional-universal-property : UUω
> your-favorite-propositional-universal-property =
>   {l : Level} (R : Prop l) -> some-logical-equivalence
> ```
> 
> but I guess that is actually a benefit of this approach, as you can define universal properties more generally *as it doesn't have to refer to some standard construction.

How about introducing `is-logical-equivalence` and variants?

**Comment by EgbertRijke** [comment]
On the other hand, for universal properties it doesn't feel like a crime to me to just use ordinary equivalences. I think that's how it has been done so far, even for universal properties of propositions, and I don't recall that there were problems with this.

**Comment by fredrik-bakke** [comment]
Here's the current draft table:

> | Name                                                        | Operator on types | Operator on propositions/subtypes |
> | ----------------------------------------------------------- | ----------------- | ------------------------ |
> | [Dependent sum](foundation.dependent-pair-types.md)         | `Σ`               | `Σ-Prop`                 |
> | [Dependent product](foundation.dependent-function-types.md) | `Π`               | `Π-Prop`                     |
> | [Functions](foundation-core.function-types.md)              | `→`               | `⇒`                      |
> | [Logical equivalence](foundation.logical-equivalences.md)   | `↔`               | `⇔`                      |
> | [Product](foundation-core.cartesian-product-types.md)       | `×`               | `product-Prop`           |
> | [Join](synthetic-homotopy-theory.joins-of-types.md)         | `*`               | `join-Prop`              |
> | [Exclusive sum](foundation.exclusive-sum.md)                | `exclusive-sum`   | `exclusive-sum-Prop`     |
> | [Coproduct](foundation-core.coproduct-types.md)             | `+`               | _N/A_                    |
> 
> Note that for many operations in the second section, there is an equivalent
> operation on propositions in the first.
> 
> | Name                                                                         | Operator on types             | Operator on propositions/subtypes                |
> | ---------------------------------------------------------------------------- | ----------------------------- | ---------------------------------------- |
> | [Initial object](foundation-core.empty-types.md)                             | `empty`                       | `empty-Prop`                             |
> | [Terminal object](foundation.unit-type.md)                                   | `unit`                        | `unit-Prop`                              |
> | [Existential quantification](foundation.existential-quantification.md)       | `exists-type-family`          | `∃`                                      |
> | [Unique existential quantification](foundation.uniqueness-quantification.md) | `uniquely-exists-type-family` | `∃!`                                     |
> | [Universal quantification](foundation.universal-quantification.md)           |                               | `∀'` (equivalent to `Π-Prop`)            |
> | [Conjunction](foundation.conjunction.md)                                     |                               | `∧` (equivalent to `product-Prop`)       |
> | [Disjunction](foundation.disjunction.md)                                     | `disjunction-Type`            | `∨` (equivalent to `join-Prop`)          |
> | [Exclusive disjunction](foundation.exclusive-disjunction.md)                 | `xor-Type`                    | `⊻` (equivalent to `exclusive-sum-Prop`) |
> | [Negation](foundation.negation.md)                                           | `¬`                           | `¬'`                                     |
> | [Double negation](foundation.double-negation.md)                             | `¬¬`                          | `¬¬'`                                    |

#### Notes
- I am open to reverting `neg-prop-Type` and friends to `neg-Prop'` if you prefer, but I think the "derogatory" suffix `-Type` helps when working with things like `disjunction-Type` and friends.
- I believe it is still useful to have the definitions for `exists-type-family` and `disjunction-Type` around for reasons I've attempted to justify in the prose. Note that they also already see some use in the library.
- I have not refactored all universal properties of propositions, so now there is some inconsistency in these (which I believe we can live with for the time being)

**Comment by fredrik-bakke** [comment]
There is sure to be some finishing touches left to do in this PR, but I would prefer a review first as I don't want to waste my time on that if I have to make major revisions again.

File: src/foundation/conjunction.lagda.md [hunk 17]
```diff
@@ -10,89 +10,230 @@ module foundation.conjunction where
...
+  pr1 conjunction-Decidable-Prop =
+    type-conjunction-Prop (prop-Decidable-Prop P) (prop-Decidable-Prop Q)
+  pr1 (pr2 conjunction-Decidable-Prop) =
+    is-prop-conjunction-Prop (prop-Decidable-Prop P) (prop-Decidable-Prop Q)
+  pr2 (pr2 conjunction-Decidable-Prop) =
+    is-decidable-conjunction-Decidable-Prop
 ```
 
-## Properties
+### The introductino rule and projections for the conjunction of propositions
```
Comment (fredrik-bakke) [inline src/foundation/conjunction.lagda.md:116]:
```suggestion
### The introduction rule and projections for the conjunction of propositions
```

File: src/foundation/existential-quantification.lagda.md [hunk 18]
```diff
@@ -23,122 +27,300 @@ open import foundation-core.propositions
...
+and is thus equivalent to it. Therefore, we may reasonably call this
+construction the
+{{#concept "existential quantification" Disambiguation="on a type family" Agda=exists-type-family-Prop}}
+on a type family. It is important to keep in mind that this is not a
+generalization of the concept but rather a conflation, and should be read as the
+statement _there is some `x : A` such that `B x` is (merely)
+[inhabited](foundation.inhabited-types.md)_. Still, it is useful to begin by
+considering existential quantification on arbitrary type families, as many
+constructions pertaining to existential quantification apply in this context,
+and it enables the inference mechanism of Agda to do more work for us.
```
Comment (EgbertRijke) [inline src/foundation/existential-quantification.lagda.md:83]: I am wondering if we could clarify this by framing it in terms of "existence of structure".

````suggestion
### Existence of structure

Given a [structure](foundation.structure.md) `B : A → 𝒰` on a type `A`, the propositional truncation

```text
  ║ Σ (x : A), (B x) ║₋₁
```

satisfies the universal property of the existential quantification

```text
  ∃ (x : A), ║ B x ║₋₁
```

and is thus equivalent to it. Therefore, we may reasonably call this
construction the
{{#concept "existential quantification" Disambiguation="structure" Agda=exists-structure-Prop}}
of structure. It is important to keep in mind that this is not a
generalization of the concept but rather a conflation, and should be read as the
statement _the type of elements `x : A` equipped with `y : B x` is
[inhabited](foundation.inhabited-types.md)_.

Existence of structure is a widely occurring notion in univalent mathematics. For instance, the condition that an element `y : B` is in the [image](foundation.images.md) of a map `f : A -> B` is formulated using existence of structure: The element `y` is in the image of `f` if the type of `x : A` equipped with an identification `f x = y` is inhabited.

[A more concrete description of what you have in mind with "it enables the inference mechanism of Agda to do more work for us"]
````

I made the last few sentences a bit more concrete, because I imagine it can be difficult for the reader to infer what kind of examples you could have had in mind here. In fact, I don't know what kind of example you had in mind with: "it enables the inference mechanism of Agda to do more work for us." This sounds interesting, and it is definitely worth being more concrete about it.

File: src/foundation/existential-quantification.lagda.md [hunk 19]
```diff
@@ -23,122 +27,300 @@ open import foundation-core.propositions
...
+
+### The introduction rule for existential quantification
+
+```agda
+module _
+  {l1 l2 : Level} {A : UU l1} {B : A → UU l2}
+  where
+
+  intro-exists : (a : A) (b : B a) → exists-type-family A B
+  intro-exists a b = unit-trunc-Prop (a , b)
```
Comment (EgbertRijke) [inline src/foundation/existential-quantification.lagda.md:129]: Should this be:

```suggestion
  intro-exists-type-family : (a : A) (b : B a) → exists-type-family A B
  intro-exists-type-family a b = unit-trunc-Prop (a , b)
```

?

File: src/foundation/existential-quantification.lagda.md [hunk 20]
```diff
@@ -23,122 +27,300 @@ open import foundation-core.propositions
...
+```
+
+### The universal property of existential quantification
+
+```agda
+module _
+  {l1 l2 l3 : Level} (A : UU l1) (B : A → UU l2) (∃AB : Prop l3)
```
Comment (EgbertRijke) [inline src/foundation/existential-quantification.lagda.md:136]: In this case I'm not really in favor of using such a convoluted variable name. In fact, I think it is important that universal properties are stated for _arbitrary objects_ with given structure. In this example, an _arbitrary_ proposition `P` equipped with a family functions `B x -> P` indexed by `x : A` is said to satisfy the universal property of existential quantification if ....

```suggestion
  {l1 l2 l3 : Level} (A : UU l1) (B : A → UU l2) (P : Prop l3)
```

File: src/foundation/existential-quantification.lagda.md [hunk 21]
```diff
@@ -23,122 +27,300 @@ open import foundation-core.propositions
...
+    {l : Level} (Q : Prop l) →
+    (type-Prop ∃AB → type-Prop Q) ↔ ((x : A) → B x → type-Prop Q)
+
+module _
+  {l1 l2 l3 : Level} (A : UU l1) (P : A → Prop l2) (∃AP : Prop l3)
+  where
+
+  universal-property-exists-Prop : UUω
+  universal-property-exists-Prop =
+    universal-property-exists-type-family A (type-Prop ∘ P) ∃AP
```
Comment (EgbertRijke) [inline src/foundation/existential-quantification.lagda.md:150]: There is a discrepancy in these two names: In one name you use the suffix `-Prop` and in the other one you don't.

File: src/foundation/existential-quantification.lagda.md [hunk 22]
```diff
@@ -23,122 +27,300 @@ open import foundation-core.propositions
...
+[poset of propositions](foundation.large-locale-of-propositions.md).
+
+```agda
+module _
+  {l1 l2 l3 : Level} {A : UU l1} {B : A → UU l2}
+  where
+
+  ev-intro-exists :
+    {C : UU l3} → (exists-type-family A B → C) → (x : A) → B x → C
+  ev-intro-exists H x p = H (intro-exists x p)
```
Comment (EgbertRijke) [inline src/foundation/existential-quantification.lagda.md:170]: Should this be

```suggestion
  ev-intro-exists-type-family :
    {C : UU l3} → (exists-type-family A B → C) → (x : A) → B x → C
  ev-intro-exists-type-family H x p = H (intro-exists x p)
```

?

I noticed that you did this before too, so perhaps I am missing an idea. However, without knowing your idea it seems better to try to make it obvious which existential quantification this `ev-intro` is defined for.

Comment (EgbertRijke) [reply src/foundation/existential-quantification.lagda.md:170]: This comments applies to the other entries in this code block too.

File: src/foundation/existential-quantification.lagda.md [hunk 23]
```diff
@@ -23,122 +27,300 @@ open import foundation-core.propositions
...
-    is-equiv-is-prop
-      ( is-prop-type-hom-Prop (exists-Prop A P) Q)
-      ( is-prop-Π ((λ x → is-prop-type-hom-Prop (P x) Q)))
-      ( elim-exists-Prop P Q)
-
-is-least-upper-bound-exists-Prop :
-  {l1 l2 l3 : Level} {A : UU l1} (P : A → Prop l2) (Q : Prop l3) →
-  ((a : A) → type-hom-Prop (P a) Q) ↔ type-hom-Prop (exists-Prop A P) Q
-pr1 (is-least-upper-bound-exists-Prop P Q) = elim-exists-Prop P Q
-pr2 (is-least-upper-bound-exists-Prop P Q) h a p = h (intro-∃ a p)
```
Comment (EgbertRijke) [inline src/foundation/existential-quantification.lagda.md:112]: Sometimes universal properties are named. For instance, an object in a poset is said to be a least upper bound if it satisfies the universal property of being a least upper bound. I wonder why you have decided to discard the entry name `is-least-upper-bound-exists-Prop` in favor of `iff-universal-property-exists`.

For instance, by using the name of this property we avoid having to prepend the entry name with `iff`, and I also find that it clarifies how to view the universal property of existential quantification.

File: src/foundation/existential-quantification.lagda.md [hunk 24]
```diff
@@ -23,122 +27,300 @@ open import foundation-core.propositions
...
+and is thus equivalent to it. Therefore, we may reasonably call this
+construction the
+{{#concept "existential quantification" Disambiguation="on a type family" Agda=exists-type-family-Prop}}
+on a type family. It is important to keep in mind that this is not a
+generalization of the concept but rather a conflation, and should be read as the
+statement _there is some `x : A` such that `B x` is (merely)
+[inhabited](foundation.inhabited-types.md)_. Still, it is useful to begin by
+considering existential quantification on arbitrary type families, as many
+constructions pertaining to existential quantification apply in this context,
+and it enables the inference mechanism of Agda to do more work for us.
```
Comment (EgbertRijke) [inline src/foundation/existential-quantification.lagda.md:84]: It would be good to mention here that existence is the least upper bound operation in the [locale of propositions](https://unimath.github.io/agda-unimath/foundation.large-locale-of-propositions.html), and to mention to the reader already that one of the properties of existence is distributivity of conjunction over existential quantification.

**Review by EgbertRijke — COMMENTED** [review]
This time I have looked through files relating to (unique) existential quantification. I have a few questions about them.

For instance, we speak of "(unique) existential quantification in a type family". This was a phrase we already used before this pull request. I wonder if we could evoke a more accurate connotation if we would speak of "existence of structure", and replace the naming scheme `exists-type-family` by `exists-structure`.

I also noticed that you used unannotated `exists` often for statements about `exists-type-family`, and I am confused by this. Wouldn't it be better to use `exists-type-family` in all of these cases (or `exists-structure` if we decide to use that suggestion)? Right now the suggestion seems to be to have `intro-exists` mapping into `exists-type-family`, which looks odd to me.

I will review more later, but I thought I'd already send this part.

**Comment by fredrik-bakke** [comment]
I like your suggestion regarding using `structure` instead. The map `intro-exists` is called that because it's used for structure and properties alike, and this way one doesn't have to specify the subtype

**Comment by EgbertRijke** [comment]
> I like your suggestion regarding using `structure` instead. The map `intro-exists` is called that because it's used for structure and properties alike, and this way one doesn't have to specify the subtype

That's a good reason. Could you make a small comment in the file about this, so that future formalizers (including ourselves) can know this too?

File: src/foundation/existential-quantification.lagda.md (hunk 22 above)
Comment (fredrik-bakke) [reply src/foundation/existential-quantification.lagda.md:170]: So the idea is that it is defined for both notions of existence, hence why I say there's a conflation in the explanation text. I will try to be more clear about this in the prose. Are you otherwise okay with the name `ev-intro-exists`?

File: src/foundation/conjunction.lagda.md [hunk 25]
```diff
@@ -10,89 +10,230 @@ module foundation.conjunction where
...
+    ∨      ∨      ∨
+  P <--- P ∧ Q ---> Q.
+```
+
+In other words, we have a
+[logical equivalence](foundation.logical-equivalences.md)
+
+$$
+(R → P) ∧ (R → Q) ↔ (R → P ∧ Q)
+$$
```
Comment (EgbertRijke) [inline src/foundation/conjunction.lagda.md:58]: Just to verify, are unicode symbols accepted by the latex renderer? I would have expected that Latex commands are required here.

File: src/foundation/conjunction.lagda.md [hunk 26]
```diff
@@ -10,89 +10,230 @@ module foundation.conjunction where
...
 ```agda
-conjunction-Prop = product-Prop
+module _
+  {l1 l2 : Level} (P : Prop l1) (Q : Prop l2)
+  where
 
-type-conjunction-Prop : {l1 l2 : Level} → Prop l1 → Prop l2 → UU (l1 ⊔ l2)
-type-conjunction-Prop P Q = type-Prop (conjunction-Prop P Q)
+  conjunction-Prop : Prop (l1 ⊔ l2)
+  conjunction-Prop = product-Prop P Q
```
Comment (EgbertRijke) [inline src/foundation/conjunction.lagda.md:76]: Here I am wondering why you removed `implication-Prop` in favor of `hom-Prop`, but you keep both `conjunction-Prop` and `product-Prop` around. Is this intentional?

File: src/foundation/existential-quantification.lagda.md (hunk 20 above)
Comment (fredrik-bakke) [reply src/foundation/existential-quantification.lagda.md:136]: Thanks! Many of our formalizations of universal properties for propositions are not stated in terms of an arbitrary object, so I'll leave this comment unresolved until the ones that are touched by this PR are fixed.

File: src/foundation/conjunction.lagda.md [hunk 27]
```diff
@@ -10,89 +10,230 @@ module foundation.conjunction where
...
-pr1 (intro-conjunction-Prop P Q p q) = p
-pr2 (intro-conjunction-Prop P Q p q) = q
+module _
+  {l1 l2 : Level} (P : Prop l1) (Q : Prop l2)
+  where
+
+  prop-recursion-principle-conjunction-Prop :
+    {l : Level} (R : Prop l) → Prop (l1 ⊔ l2 ⊔ l)
+  prop-recursion-principle-conjunction-Prop R =
+    ((P ∧ Q) ⇒ R) ⇔ (P ⇒ Q ⇒ R)
```
Comment (EgbertRijke) [inline src/foundation/conjunction.lagda.md:132]: Wouldn't this name be better in line with agda-unimath practice with `prop` after `recursion-principle`?

```suggestion
  recursion-principle-prop-conjunction-Prop :
    {l : Level} (R : Prop l) → Prop (l1 ⊔ l2 ⊔ l)
  recursion-principle-prop-conjunction-Prop R =
    ((P ∧ Q) ⇒ R) ⇔ (P ⇒ Q ⇒ R)
```

File: src/foundation/conjunction.lagda.md [hunk 28]
```diff
@@ -10,89 +10,230 @@ module foundation.conjunction where
...
+    is-decidable-conjunction-Decidable-Prop
 ```
 
-## Properties
+### The introduction rule and projections for the conjunction of propositions
 
-### Introduction rule for conjunction
+We refrain from defining the introduction rule and basic projections of the
+conjunction, and advise users to utilize the standard projections of the
+dependent pair type `pr1` and `pr2`.
```
Comment (EgbertRijke) [inline src/foundation/conjunction.lagda.md:120]: I wonder why you want to remove the introduction principle, but keep `ev-conjunction-Prop` which is just `ev-pair`. I'd say keep all of them. We can then still advise users to use the standard pairing and projection maps.

File: src/foundation/conjunction.lagda.md [hunk 29]
```diff
@@ -10,89 +10,230 @@ module foundation.conjunction where
...
-equiv-universal-property-conjunction-Prop P Q R =
-  equiv-iff'
-    ( conjunction-Prop (hom-Prop R P) (hom-Prop R Q))
-    ( hom-Prop R (conjunction-Prop P Q))
-    ( iff-universal-property-conjunction-Prop P Q R)
+  where
+
+  prop-rec-conjunction-Prop : {l : Level} (R : Prop l) → Prop (l1 ⊔ l2 ⊔ l)
+  prop-rec-conjunction-Prop R =
+    (P ⇒ Q ⇒ R) ⇒ (P ∧ Q) ⇒ R
```
Comment (EgbertRijke) [inline src/foundation/conjunction.lagda.md:156]: I find it a little strange that the "recursion principle" is a biimplication and the recursor is only in one direction.

I am also thinking that in logic, it is more common to say "elimination" for logical operators, and not "recursion". See for instance. For instance, in the case of existential quantification we also use the word elimination for this purpose, and not recursion. Wouldn't it make sense to use elimination across the board, for all logical operators? I think that is fairly standard in logic textbooks.

https://en.wikipedia.org/wiki/Conjunction_elimination

File: src/foundation/conjunction.lagda.md [hunk 30]
```diff
@@ -10,89 +10,230 @@ module foundation.conjunction where
...
+    ( map-distributive-conjunction-Prop ,
+      is-equiv-map-distributive-conjunction-Prop)
+
+module _
+  {l1 l2 l3 : Level} (P : Prop l1) (Q : Prop l2) (R : Prop l3)
+  where
+
+  is-greatest-lower-bound-conjunction-Prop :
+    type-Prop ((R ⇒ P) ∧ (R ⇒ Q)) ↔
+    type-Prop (R ⇒ P ∧ Q)
```
Comment (EgbertRijke) [inline src/foundation/conjunction.lagda.md:216]: It would make sense to use the definition of being a greatest lower bound in this specification:

https://unimath.github.io/agda-unimath/order-theory.greatest-lower-bounds-large-posets.html

In this file you also see that the naming scheme for greatest binary lower bounds is `is-greatest-binary-lower-bound`.

**Review by EgbertRijke — COMMENTED** [review]
Here is another part of my review. I apologize for the slow review, but I feel like it is important to get things right and I had a few questions in a few places. Nevertheless, I think this pull request is improving a lot and I like many of the changes that you have been making.

**Comment by fredrik-bakke** [comment]
Thank you for the well-thought-out comments and contributions, @EgbertRijke. I am sorry to be spending so much of your time on this, and I agree that it is paramount to secure the highest integrity for these concepts.

**Comment by EgbertRijke** [comment]
> Thank you for the well-thought-out comments and contributions, @EgbertRijke. I am sorry to be spending so much of your time on this, and I agree that it is paramount to secure the highest integrity for these concepts.

Don't be sorry. This PR is very worthwhile!

File: src/foundation/conjunction.lagda.md (hunk 26 above)
Comment (fredrik-bakke) [reply src/foundation/conjunction.lagda.md:76]: In my understanding `conjunction-Prop` and `product-Prop` aren't quite the same concept. Conjunction is, as we've discussed, an operation solely on propositions, and it happens to be implemented by the cartesian product. `product-Prop`, on the other hand, is the cartesian product of propositions, which happens to also be a proposition.

The definitions `implication-Prop` and `hom-Prop`, on the other hand, filled the same role to my understanding. Perhaps the original author(s) of these had a distinction in mind, but that was not at all clear from the contents in the library.

File: src/elementary-number-theory/well-ordering-principle-standard-finite-types.lagda.md [hunk 31]
```diff
@@ -180,7 +180,7 @@ well-ordering-principle-Σ-Fin (succ-ℕ k) {P} d (pair (inr star) p)
 
 well-ordering-principle-∃-Fin :
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/elementary-number-theory/well-ordering-principle-standard-finite-types.lagda.md:181]: seeing as this definition is mirrored by `well-ordering-principle-Σ-Fin`, I'm inclined to keep it like this

File: src/elementary-number-theory/nonzero-integers.lagda.md [hunk 32]
```diff
@@ -38,7 +38,7 @@ holds.
 
 ```agda
 is-nonzero-prop-ℤ : ℤ → Prop lzero
-is-nonzero-prop-ℤ k = neg-Prop' (k ＝ zero-ℤ)
+is-nonzero-prop-ℤ k = neg-prop-type (k ＝ zero-ℤ)
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/elementary-number-theory/nonzero-integers.lagda.md:41]: Indeed it is. I have yet to decide on the best naming schema for these

File: src/foundation/conjunction.lagda.md (hunk 26 above)
Comment (EgbertRijke) [reply src/foundation/conjunction.lagda.md:76]: > In my understanding `conjunction-Prop` and `product-Prop` aren't quite the same concept. Conjunction is, as we've discussed, an operation solely on propositions, and it happens to be implemented by the cartesian product. `product-Prop`, on the other hand, is the cartesian product of propositions, which happens to also be a proposition.
> 
> The definitions `implication-Prop` and `hom-Prop`, on the other hand, filled the same role to my understanding. Perhaps the original author(s) of these had a distinction in mind, but that was not at all clear from the contents in the library.

I'm not sure if I'm following, because if I replace conjunction with implication and product with hom, don't I just get the same argument?

"In my understanding `implication-Prop` and `hom-Prop` aren't quite the same concept. Implication is, as we've discussed, an operation solely on propositions, and it happens to be implemented by hom. `hom-Prop`, on the other hand, is the function type between propositions, which happens to also be a proposition."

Please note that I'm not trying to point out a fallacy or anything like that. I am trying to understand what you are saying here, and why it applies to conjunction but not to implication.

File: src/foundation-core/propositions.lagda.md [hunk 33]
```diff
@@ -139,10 +145,24 @@ module _
...
+    pr2 (equiv-is-prop is-prop-A is-prop-B f g) =
       is-equiv-is-prop is-prop-A is-prop-B g
+
+module _
+  {l1 l2 : Level} (P : Prop l1) (Q : Prop l2)
+  where
+
+  is-equiv-Prop' :
+    {f : type-Prop P → type-Prop Q} → (type-Prop Q → type-Prop P) → is-equiv f
+  is-equiv-Prop' = is-equiv-is-prop (is-prop-type-Prop P) (is-prop-type-Prop Q)
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation-core/propositions.lagda.md:159]: I find that `is-equiv-Prop'` boosts readability, especially due to the introduction of a better notation as done in this PR, so I would actually want to use `is-equiv-Prop'` more than is done currently. I think it's unfortunate that a definition is undesirable simply because of a naming conflict. How about introducing `iff` or a variant as part of its name even though we don't directly use `iff` in it (similar to how we write `is-equiv-is-invertible`)? For instance, we could call it `is-equiv-is-logical-equivalence-Prop`

File: src/foundation/conjunction.lagda.md (hunk 26 above)
Comment (fredrik-bakke) [reply src/foundation/conjunction.lagda.md:76]: I guess my understanding boils down to that the word `hom` is so vague it can be interpreted as `implication`, while `product` has a very specific meaning in our library. I would not be opposed to have a file about implication of propositions in addition to `hom-Prop`, but in the state that the concept was in, I did not see justification to keep `implication-Prop` around.

File: src/foundation-core/propositions.lagda.md (hunk 33 above)
[the remark this answers is not in the document]
Comment (EgbertRijke) [reply src/foundation-core/propositions.lagda.md:159]: You are completely right that it is unfortunate that a perfectly good definition would be undesirable just because of a naming conflict. This should indeed not be the case.

Perhaps there is a way to name these things slightly more differently, so that both entries have first-class names. But I won't be holding up this PR over this, if we can't think of any other name.

[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation-core/propositions.lagda.md:159]: You don't like `is-equiv-is-logical-equivalence-Prop`? Another option is `is-equiv-has-converse-Prop`

[the remark this answers is not in the document]
Comment (EgbertRijke) [reply src/foundation-core/propositions.lagda.md:159]: Oh, sorry! I totally missed your last sentence.

Yes I do like that very much! Especially when we introduce `is-logical-equivalence(-Prop)`

File: src/foundation/apartness-relations.lagda.md [hunk 34]
```diff
@@ -202,16 +206,8 @@ module _
...
-                  ( rel-apart-function-into-Type-With-Apartness X Y f h)
-                  ( rel-apart-function-into-Type-With-Apartness X Y g h)
-                  ( unit-trunc-Prop (x , b))
-              ( inr b) →
-                inr-disjunction-Prop
-                  ( rel-apart-function-into-Type-With-Apartness X Y f h)
-                  ( rel-apart-function-into-Type-With-Apartness X Y g h)
-                  ( unit-trunc-Prop (x , b))))
+              ( inl b) → inl-disjunction (unit-trunc-Prop (x , b))
+              ( inr b) → inr-disjunction (unit-trunc-Prop (x , b))))
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation/apartness-relations.lagda.md:210]: It gets shorter because we conflate "disjunction of types" and "disjunction of props" :)

File: src/foundation/conjunction.lagda.md (hunk 29 above)
Comment (fredrik-bakke) [reply src/foundation/conjunction.lagda.md]: indeed, it seems to me that the correct way to phrase the principle is in terms of "a converse to evaluation", rather than as "an evaluation function and its converse".

File: src/foundation/conjunction.lagda.md (hunk 25 above)
Comment (fredrik-bakke) [reply src/foundation/conjunction.lagda.md:58]: Here's a picture of my local rendering of the website:

image

File: src/foundation/conjunction.lagda.md (hunk 30 above)
Comment (fredrik-bakke) [reply src/foundation/conjunction.lagda.md]: I can't use the definition of `is-greatest-binary-lower-bound-Large-Poset` without factoring the poset part of `large-locale-of-propositions` into a separate file. Is this what you had in mind?

File: src/foundation/uniqueness-quantification.lagda.md [hunk 35]
```diff
@@ -0,0 +1,110 @@
...
+  contraction-uniquely-exists :
+    (p : uniquely-exists-type-family A B) →
+    (q : Σ A B) → pair-uniquely-exists p ＝ q
+  contraction-uniquely-exists = contraction
+```
+
+## See also
+
+- Unique existence is the indexed analogue of
+  [exclusive disjunction](foundation.exclusive-disjunction.md).
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation/uniqueness-quantification.lagda.md:113]: Is "I don't feel like it" sufficient justification to not do this? I tried, and I couldn't find a way to explain it in a fashion that was not awkward. Secondly, I don't see why exclusive disjunction should be brought up in the idea section.

File: src/foundation/existential-quantification.lagda.md (hunk 19 above)
Comment (fredrik-bakke) [reply src/foundation/existential-quantification.lagda.md]: No.

File: src/foundation/existential-quantification.lagda.md (hunk 24 above)
Comment (fredrik-bakke) [reply src/foundation/existential-quantification.lagda.md:96]: The former was already explained as the universal property of existential quantification. The latter I'm finding hard to motivate without also saying something about locales. Is this what you had in mind?

File: src/foundation/negation.lagda.md (hunk 12 above)
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation/negation.lagda.md]: I would actually advocate for renaming `is-contr-equiv'` to `is-contr-inv-equiv` as this more clearly explains the relation between `is-contr-equiv` and `is-contr-inv-equiv`.

File: src/elementary-number-theory/nonzero-integers.lagda.md (hunk 32 above)
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/elementary-number-theory/nonzero-integers.lagda.md]: The name `neg-type-Prop` seems to be most consistent with the other definitions made in this PR, but that doesn't mean it is the best name for it. I am still fine with `neg-Prop'`, but `neg-type-Prop` is more consistent with `exists-structure-Prop`, `disjunction-type-Prop`, and `exclusive-disjunction-type-Prop`.

**Comment by fredrik-bakke** [comment]
I've tried to address all of your comments, and have asked some questions about the ones that I have yet to resolve.

**Review by EgbertRijke — COMMENTED** [review]
I have some more review comments this morning. I got to about 63/167 reviewed, so there is still a lot of work to look at. I apologize for the slow process, but I like how this PR is starting to shape up.

File: src/foundation-core/propositions.lagda.md [hunk 36]
```diff
@@ -130,19 +136,36 @@ module _
...
         ( g)
         ( λ y → eq-is-prop is-prop-B)
         ( λ x → eq-is-prop is-prop-A)
 
   abstract
-    equiv-prop : is-prop A → is-prop B → (A → B) → (B → A) → A ≃ B
-    pr1 (equiv-prop is-prop-A is-prop-B f g) = f
-    pr2 (equiv-prop is-prop-A is-prop-B f g) =
-      is-equiv-is-prop is-prop-A is-prop-B g
+    equiv-iff-is-prop : is-prop A → is-prop B → (A → B) → (B → A) → A ≃ B
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation-core/propositions.lagda.md:148]: turns out `equiv-iff` is understood as `equiv-iff-Prop`, and we can't use `equiv-iff'` because that is already taken by the uncurried version.

File: src/foundation/conjunction.lagda.md (hunk 25 above)
Comment (fredrik-bakke) [reply src/foundation/conjunction.lagda.md:58]: Fair enough

File: src/foundation/exclusive-sum.lagda.md [hunk 37]
```diff
@@ -0,0 +1,393 @@
...
+        ( unit)
+        ( λ x →
+          ( type-Prop (pr2 (standard-unordered-pair P Q) x)) ×
+          ( ¬ ( type-Prop
+                ( pr2
+                  ( standard-unordered-pair P Q)
+                  ( map-swap-2-Element-Type
+                    ( pr1 (standard-unordered-pair P Q))
+                    ( x)))))))))
+```
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation/exclusive-sum.lagda.md:289]: I've simply preserved what was already here. I have not looked at what this commented code is about.

File: src/foundation/exclusive-sum.lagda.md [hunk 38]
```diff
@@ -0,0 +1,393 @@
...
+
+</details>
+
+## Idea
+
+The {{#concept "exclusive sum" Disambiguation="of types" Agda=exclusive-sum}} of
+two types `A` and `B`, is the type consisting of all of `A` if `B` is
+[empty](foundation-core.empty-types.md), or consisting of all of `B` if `A` is
+empty.
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation/exclusive-sum.lagda.md:43]: Ah, thanks. The same is true if both `B` and `A` are empty, your type would have two elements.

File: src/foundation-core/propositions.lagda.md [hunk 39]
```diff
@@ -130,19 +136,36 @@ module _
...
+  where
+
+  is-equiv-is-logical-equivalence-Prop :
+    {f : type-Prop P → type-Prop Q} → (type-Prop Q → type-Prop P) → is-equiv f
+  is-equiv-is-logical-equivalence-Prop =
+    is-equiv-is-logical-equivalence-is-prop
+      ( is-prop-type-Prop P)
+      ( is-prop-type-Prop Q)
+
+  equiv-iff-Prop :
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation-core/propositions.lagda.md]: Let me know if you disagree with this choice and want the issue to be resolved as part of this PR. Otherwise I'll be resolving your comments related to this.

[the remark this answers is not in the document]
Comment (EgbertRijke) [reply src/foundation-core/propositions.lagda.md]: When I made this comment I was not thinking about how widely used iff is in names. You brought up a valid point and I agree that it is not essential to change any iffs to logical equivalences in this pull request.

File: src/foundation/conjunction.lagda.md (hunk 26 above)
Comment (fredrik-bakke) [reply src/foundation/conjunction.lagda.md:78]: I agree, but I would much prefer to have this PR merged first.

File: src/foundation-core/propositions.lagda.md (hunk 39 above)
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation-core/propositions.lagda.md]: By the way, I moved the definitions to `foundation.logical-equivalences` and went with `has-converse` for now

File: src/elementary-number-theory/nonzero-integers.lagda.md (hunk 32 above)
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/elementary-number-theory/nonzero-integers.lagda.md]: I've changed it back to `neg-Prop'` to keep this discussion short.

[the remark this answers is not in the document]
Comment (EgbertRijke) [reply src/elementary-number-theory/nonzero-integers.lagda.md]: That's a little surprising to me. I thought you had it at `neg-type-Prop`, which was analogous to `exists-structure-Prop` and that looked quite reasonable to me.

My apologies for not commenting last time around that I agreed with that change.

[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/elementary-number-theory/nonzero-integers.lagda.md]: oh, okay, I'll change it again I suppose

File: tables/operations-propositions.md [hunk 40]
```diff
@@ -0,0 +1,46 @@
+There is a wide range of operations on propositions due to the rich structure of
+intuitionistic logic. Below we give a structured overview of a notable selection
+of such operations and their notation in the library.
+
+The list is split into two sections, the first consists of operations that
+generalize to arbitrary types and even sufficiently nice
+[subuniverses](foundation.subuniverses.md), such as
+$n$-[types](foundation-core.truncated-types.md).
+
```
Comment (EgbertRijke) [inline tables/operations-propositions.md:9]: I wonder if it is a good idea to have this text in the same file as the table, and have multiple tables in one file. Under this setup, every time you want to display one of these tables, you can only do so while also displaying the other tables and the given text (which might not be desirable in all contexts).

File: src/trees/empty-multisets.lagda.md [hunk 41]
```diff
@@ -35,6 +36,12 @@ module _
 
   is-empty-𝕍 : 𝕍 l → UU l
   is-empty-𝕍 (tree-𝕎 X Y) = is-empty X
+
+  is-property-is-empty-𝕍 : (X : 𝕍 l) → is-prop (is-empty-𝕍 X)
+  is-property-is-empty-𝕍 (tree-𝕎 X Y) = is-property-is-empty
```
Comment (EgbertRijke) [inline src/trees/empty-multisets.lagda.md:41]: Why not `is-prop-is-empty-𝕍`?

Comment (EgbertRijke) [reply src/trees/empty-multisets.lagda.md:41]: Ah, probably because it uses `is-property-is-empty` :)

File: src/foundation/exclusive-sum.lagda.md [hunk 42]
```diff
@@ -0,0 +1,395 @@
...
+</details>
+
+## Idea
+
+The {{#concept "exclusive sum" Disambiguation="of types" Agda=exclusive-sum}} of
+two types `A` and `B`, is the type consisting of
+
+- Elements of `A` together with a proof that `B` is
+  [empty](foundation-core.empty-types.md), or
+- elements of `B` together with a proof that `A` is empty.
```
Comment (EgbertRijke) [inline src/foundation/exclusive-sum.lagda.md:45]: Inconsistent capitalization

File: src/foundation/impredicative-encodings.lagda.md [hunk 43]
```diff
@@ -28,278 +31,278 @@ open import foundation-core.sets
...
 ```
+
+## Table of files about propositional logic
+
+The following table gives an overview of basic constructions in propositional
+logic and related considerations.
+
+{{#include tables/propositional-logic.md}}
+
+## External
```
Comment (EgbertRijke) [inline src/foundation/impredicative-encodings.lagda.md:305]:
```suggestion
## External links
```

File: src/foundation/impredicative-universes.lagda.md [hunk 44]
```diff
@@ -17,11 +17,19 @@ open import foundation-core.small-types
...
 is-impredicative-UU : (l : Level) → UU (lsuc l)
 is-impredicative-UU l = is-small l (Prop l)
 ```
+
+## Table of files about propositional logic
+
+The following table gives an overview of basic constructions in propositional
+logic and related considerations.
+
+{{#include tables/propositional-logic.md}}
```
Comment (EgbertRijke) [inline src/foundation/impredicative-universes.lagda.md:35]: It feels a bit random to display the table of files about propositional logic here. Presumably you are doing that because impredicative universes can be used to give impredicative encodings of logical operators, but wouldn't it then be more on-point to create a `## See also` section with a link to the impredicative encodings?

File: src/foundation/injective-maps.lagda.md [hunk 45]
```diff
@@ -49,3 +56,60 @@ is-injective-is-empty :
...
+
+  is-set-is-injective :
+    {l1 l2 : Level} {A : UU l1} {B : UU l2} {f : A → B} →
+    is-set B → is-injective f → is-set A
+  is-set-is-injective {f = f} H I =
+    is-set-prop-in-id
+      ( λ x y → f x ＝ f y)
+      ( λ x y → H (f x) (f y))
+      ( λ x → refl)
+      ( λ x y → I)
```
Comment (EgbertRijke) [inline src/foundation/injective-maps.lagda.md:82]: This piece of code deserves its own section `### A type is a set if it maps injectively into a set`. This result is also not so much about the concept of injectivity, but more about when a type is a set. Would you mind trying to move this result to `foundation(-core).sets`?

File: src/foundation/impredicative-universes.lagda.md (hunk 44 above)
Comment (fredrik-bakke) [reply src/foundation/impredicative-universes.lagda.md:35]: I've been thinking about deleting `tables/propositional-logic.md` to be honest. The table is a bit big and hard to navigate I think, and part of its utility is covered by `operations-propositions.md`

File: src/foundation/intersections-subtypes.lagda.md [hunk 46]
```diff
@@ -70,7 +70,7 @@ module _
   intersection-decidable-subtype :
     decidable-subtype l1 X → decidable-subtype l2 X →
     decidable-subtype (l1 ⊔ l2) X
-  intersection-decidable-subtype P Q x = conjunction-Decidable-Prop (P x) (Q x)
+  intersection-decidable-subtype P Q x = product-Decidable-Prop (P x) (Q x)
```
Comment (EgbertRijke) [inline src/foundation/intersections-subtypes.lagda.md:73]: Hm... don't you think that `conjunction` was better here?

Comment (fredrik-bakke) [reply src/foundation/intersections-subtypes.lagda.md:73]: probably! I'll revert it.

File: src/foundation/large-locale-of-propositions.lagda.md [hunk 47]
```diff
@@ -30,8 +32,9 @@ open import order-theory.top-elements-large-posets
 
 ## Idea
 
-The types of [propositions](foundation-core.propositions.md) `Prop l` combined
-form a [large locale](order-theory.large-locales.md).
+the types of [propositions](foundation-core.propositions.md) `Prop l` combined
+form a [large locale](order-theory.large-locales.md) since we do not assume
+[propositional resizing](foundation.propositional-resizing.md).
```
Comment (EgbertRijke) [inline src/foundation/large-locale-of-propositions.lagda.md:37]: It looks like this sentence is at the start of the `## Idea` section, so it should be capitalized. It also could be improved in many other ways. How about something along the following lines:

```suggestion
The [large locale](order-theory.large-locales.md) of [propositions](foundation-core.propositions.md) consists of all the propositions of any [universe level](foundation.universe-levels.md) and is ordered by the [implications](foundation.implication.md) between them. [Conjunction](foundation.conjunction.md) gives this [large poset](order-theory.large-posets.md) the structure of a large meet-semilattice, and [existential quantification](foundation.existential-quantification.md) gives it the structure of a large suplattice. Note that the collection of all propositions is large because we do not assume [propositional resizing](foundation.propositional-resizing.md).
```

File: src/foundation/limited-principle-of-omniscience.lagda.md [hunk 48]
```diff
@@ -24,16 +24,18 @@ open import univalent-combinatorics.standard-finite-types
...
+`f n ＝ 1` or for all `n` we have `f n ＝ 0`.
 
 ```agda
 LPO : UU lzero
 LPO =
   (f : ℕ → Fin 2) →
   type-disjunction-Prop
-    ( ∃-Prop ℕ (λ n → f n ＝ one-Fin 1))
+    ( ∃ ℕ (λ n → Id-Prop (Fin-Set 2) (f n) (one-Fin 1)))
     ( Π-Prop ℕ (λ n → Id-Prop (Fin-Set 2) (f n) (zero-Fin 1)))
```
Comment (EgbertRijke) [inline src/foundation/limited-principle-of-omniscience.lagda.md:39]:
```suggestion
    ( ∀' ℕ (λ n → Id-Prop (Fin-Set 2) (f n) (zero-Fin 1)))
```

?

File: src/foundation/logical-equivalences.lagda.md [hunk 49]
```diff
@@ -80,8 +104,15 @@ module _
...
-  _⇔_ = type-iff-Prop
+  _⇔_ : Prop (l1 ⊔ l2)
+  _⇔_ = iff-Prop
+```
+
+### The identity logical equivalence
+
+```agda
+id-iff : {l1 : Level} {A : UU l1} → A ↔ A
+id-iff = id , id
```
Comment (EgbertRijke) [inline src/foundation/logical-equivalences.lagda.md:115]:
```suggestion
id-iff = (id , id)
```

File: src/foundation/logical-equivalences.lagda.md [hunk 50]
```diff
@@ -176,7 +238,7 @@ compute-fiber-iff-equiv {A = A} {B} (f , g) =
 ### Two equal propositions are logically equivalent
 
 ```agda
-iff-eq : {l1 : Level} {P Q : Prop l1} → P ＝ Q → P ⇔ Q
+iff-eq : {l1 : Level} {P Q : Prop l1} → P ＝ Q → type-Prop P ↔ type-Prop Q
```
Comment (EgbertRijke) [inline src/foundation/logical-equivalences.lagda.md:241]: Just a question (I'm not expressing a preference):

Would it be clearer if we wrote `type-Prop (P ⇔ Q)` for this sort of thing?

File: src/foundation/mere-functions.lagda.md [hunk 51]
```diff
@@ -0,0 +1,101 @@
...
+  ev-mere-function' : (mere-function A B) → A → ║ B ║₋₁
+  ev-mere-function' |f| a =
+    rec-trunc-Prop (trunc-Prop B) (λ f → unit-trunc-Prop (f a)) |f|
+
+  ev-mere-function : (mere-function A B) → ║ A ║₋₁ → ║ B ║₋₁
+  ev-mere-function |f| |a| =
+    rec-trunc-Prop (trunc-Prop B) (ev-mere-function' |f|) (|a|)
+```
+
+### Mere functions give a reflexive relation
```
Comment (EgbertRijke) [inline src/foundation/mere-functions.lagda.md:69]: Is "give" the right word here? Perhaps "form" would be a better verb in this situation.

File: src/foundation/mere-functions.lagda.md [hunk 52]
```diff
@@ -0,0 +1,101 @@
...
+```agda
+module _
+  {l : Level} (A : UU l)
+  where
+
+  refl-mere-function : mere-function A A
+  refl-mere-function = unit-trunc-Prop id
+```
+
+### Mere functions five a transitive relation
```
Comment (EgbertRijke) [inline src/foundation/mere-functions.lagda.md:80]: typo: five -> give/form

File: src/foundation/logical-equivalences.lagda.md (hunk 50 above)
Comment (fredrik-bakke) [reply src/foundation/logical-equivalences.lagda.md:241]: I agree with your suggestion. Sorry for being inconsistent with how I use the operators in this PR. It's gone back and forth so many times its hard to catch every change every time.

File: src/foundation/mere-logical-equivalences.lagda.md [hunk 53]
```diff
@@ -0,0 +1,227 @@
...
+
+  trans-mere-iff : mere-iff B C → mere-iff A B → mere-iff A C
+  trans-mere-iff |g| =
+    rec-trunc-Prop
+      ( prop-mere-iff A C)
+      ( λ f →
+        rec-trunc-Prop
+          ( prop-mere-iff A C)
+          ( λ g → unit-trunc-Prop (g ∘iff f))
+          ( |g|))
```
Comment (EgbertRijke) [inline src/foundation/mere-logical-equivalences.lagda.md:83]: I think we currently have no precedent for using `trans-` in names. We're using `transitive-` instead

File: src/foundation/mere-logical-equivalences.lagda.md [hunk 54]
```diff
@@ -0,0 +1,227 @@
...
+### Mere logical equivalence is a symmetric relation
+
+```agda
+module _
+  {l1 l2 : Level} {A : UU l1} {B : UU l2}
+  where
+
+  sym-mere-iff : mere-iff A B → mere-iff B A
+  sym-mere-iff =
+    rec-trunc-Prop (prop-mere-iff B A) (unit-trunc-Prop ∘ inv-iff)
```
Comment (EgbertRijke) [inline src/foundation/mere-logical-equivalences.lagda.md:95]: The only precedent for `sym` we currently have is in the recent contribution about globular types. In the context of relations, we usually spell out `symmetric`

File: src/foundation/mere-logical-equivalences.lagda.md (hunk 53 above)
Comment (fredrik-bakke) [reply src/foundation/mere-logical-equivalences.lagda.md:83]: ah, whoops. I'm resurrecting old bad practices!

File: src/foundation/mere-logical-equivalences.lagda.md [hunk 55]
```diff
@@ -0,0 +1,227 @@
...
+
+  prop-mere-iff : Prop (l1 ⊔ l2)
+  prop-mere-iff = trunc-Prop (A ↔ B)
+
+  mere-iff : UU (l1 ⊔ l2)
+  mere-iff = type-Prop prop-mere-iff
+
+  is-prop-mere-iff : is-prop mere-iff
+  is-prop-mere-iff = is-prop-type-Prop prop-mere-iff
+```
```
Comment (EgbertRijke) [inline src/foundation/mere-logical-equivalences.lagda.md:53]: I don't want to force this one way or the other, but I do want to express an opinion:)

To me it looks very odd to introduce the concept of "mere logical equivalence" as `mere-iff` and not as the more obvious `mere-logical-equivalence`. I would read "Let `(x : mere-iff P Q)`" as "Let `x` be a mere if and only if" and find "Let (x : mere-logical-equivalence P Q)`" a lot easier on the eye.

Anyway, I don't want to spark a debate at this point, so consider this remark resolved.

File: src/foundation/mere-logical-equivalences.lagda.md [hunk 56]
```diff
@@ -0,0 +1,227 @@
...
+
+### Mere logical equivalence is equivalent to having bidirectional mere functions
+
+For all types we have the equivalence
+
+```text
+  (mere-iff A B) ≃ (mere-function A B × mere-function B A).
+```
+
```
Comment (EgbertRijke) [inline src/foundation/mere-logical-equivalences.lagda.md:165]: The block of code that follows chould be an instance of the law `||A|| x ||B|| <~> ||A x B||`

File: src/foundation/mere-logical-equivalences.lagda.md (hunk 55 above)
Comment (fredrik-bakke) [reply src/foundation/mere-logical-equivalences.lagda.md:53]: From my point of view `iff` is a notation of convenience, much like `up` :)
But indeed, let us have the discussion after this PR

File: src/foundation/injective-maps.lagda.md (hunk 45 above)
Comment (fredrik-bakke) [reply src/foundation/injective-maps.lagda.md]: They were moved to `foundation-core.sets` 👍

Comment (fredrik-bakke) [reply src/foundation/injective-maps.lagda.md]: Never mind, that did not work

Comment (fredrik-bakke) [reply src/foundation/injective-maps.lagda.md]: They're in `foundation.sets` now

Comment (EgbertRijke) [reply src/foundation/injective-maps.lagda.md]: Hm... perhaps I was unclear. I only intended to suggest this _one_ entry to be moved to sets:

```
is-set-is-injective :
    {l1 l2 : Level} {A : UU l1} {B : UU l2} {f : A → B} →
    is-set B → is-injective f → is-set A
  is-set-is-injective {f = f} H I =
    is-set-prop-in-id
      ( λ x y → f x ＝ f y)
      ( λ x y → H (f x) (f y))
      ( λ x → refl)
      ( λ x y → I)
```

This is the entry about concluding that a type is a set if it maps injectively into a set. A proper header for this code would be:

```
### A type is a set if it maps injectively into a set
```

Currently, it is under the header that says that an injective map into a set is an embedding and that sounds not quite right.

To the contrary, I think the code that asserts that injective maps into sets are embeddings fit well where you had them before you moved them to sets.

- Conceptually, the entries that conclude that injective maps into sets are embeddings are about those injective maps, so they fit well in the file about injective maps.
- The entry that concludes that a type is a set if it maps injectively in a set is an entry about how to show that a type is a set, so it fits better in `sets`.

These two things are not at all the same and should not be under the same header.

Comment (fredrik-bakke) [reply src/foundation/injective-maps.lagda.md]: Oh, yeah, I misunderstood you

**Comment by EgbertRijke** [comment]
I'm only at 83/193 files reviewed. Sorry once again for the slow process.

File: src/foundation/exclusive-disjunction.lagda.md [hunk 57]
```diff
@@ -7,405 +7,181 @@ module foundation.exclusive-disjunction where
...
 ## Idea
 
-The exclusive disjunction of two propositions `P` and `Q` is the proposition
-that `P` holds and `Q` doesn't hold or `P` doesn't hold and `Q` holds.
+The
+{{#concept "exclusive disjunction" Disambiguation="of propositions" WDID=Q498186 WD="exclusive or" Agda=xor-Prop}}
+of two [propositions](foundation-core.propositions.md) `P` and `Q` is the
+proposition that precisely one of `P` and `Q` holds, and is defined as the
+proposition that the [coproduct](foundation-core.coproduct-types.md) of their
+underlying types is contractible
```
Comment (EgbertRijke) [inline src/foundation/exclusive-disjunction.lagda.md:39]: Does 'contractible' need to be hyperlinked here?

File: src/foundation/sets.lagda.md [hunk 58]
```diff
@@ -263,3 +265,60 @@ abstract
 is-univalent-type-Set : {l : Level} → is-univalent (type-Set {l})
 is-univalent-type-Set = is-univalent-inclusion-subuniverse is-set-Prop
 ```
+
+### Any injective map between sets is an embedding
```
Comment (EgbertRijke) [inline src/foundation/sets.lagda.md:269]: Most of the things in the following two code blocks are statements about injective maps. Only the entry `is-set-is-injective` is a method to conclude that a type is a set. This entry belongs here, but the other entries should be moved back to `injective-maps`.

File: src/group-theory/generating-elements-groups.lagda.md [hunk 59]
```diff
@@ -159,13 +159,13 @@ module _
   {l1 : Level} (G : Group l1) (g : type-Group G)
   where
 
-  is-emb-ev-element-hom-Group' : (l : Level) → UU (l1 ⊔ lsuc l)
-  is-emb-ev-element-hom-Group' l =
+  is-emb-ev-element-hom-level-Group : (l : Level) → UU (l1 ⊔ lsuc l)
+  is-emb-ev-element-hom-level-Group l =
```
Comment (EgbertRijke) [inline src/group-theory/generating-elements-groups.lagda.md:163]: I'm not sure if this is the best naming scheme for things taking a `Level` parameter

**Review by EgbertRijke — APPROVED** [review]
